US07834051B2
tert-butyl 1-((2S)-2-{[(benzyloxy)carbonyl]amino}-1-(tert-butyldimethylsilyloxy)propyl)cyclopropanecarboxylate
A solution of tert-butyl 1-((2S)-2-{[(benzyloxy)carbonyl]amino}-1-hydroxypropyl)cyclopropanecarboxylate (1.58 g) in THF (15 mL) was cooled to 0° C., tert-butyl(dimethyl)silyl trifluoromethanesulfonate (1.56 mL) and 2,6-dimethylpyridine (1.05 mL) were added, and the mixture was stirred at room temperature for 16 hr. Water was added to the reaction mixture, and the mixture was extracted with ethyl acetate. The extract was washed with saturated brine, dried over anhydrous magnesium sulfate, and concentrated under reduced pressure. The residue was purified by silica gel column chromatography (eluent: hexane/ethyl acetate=1/0→1/1) to give the title compound as a colorless oil (yield: 1.57 g, 75%).

reactant | tert-butyl 1-((2S)-2-{[(benzyloxy)carbonyl]amino}-1-hydroxypropyl)cyclopropanecarboxylate | 1.58 g | C(C1=CC=CC=C1)OC(=O)N[C@H](C(O)C1(CC1)C(=O)OC(C)(C)C)C | C19H27NO5
reactant | tert-butyl(dimethyl)silyl trifluoromethanesulfonate | 1.56 mL | FC(S(=O)(=O)O[Si](C)(C)C(C)(C)C)(F)F | C7H15F3O3SSi
reactant | 2,6-dimethylpyridine | 1.05 mL | CC1=NC(=CC=C1)C | C7H9N
reactant | Water | O | H2O
solvent | THF | 15 mL | C1CCOC1 | C4H8O
product | tert-butyl 1-((2S)-2-{[(benzyloxy)carbonyl]amino}-1-(tert-butyldimethylsilyloxy)propyl)cyclopropanecarboxylate | yield: 1.57 g, 75% | C(C1=CC=CC=C1)OC(=O)N[C@H](C(O[Si](C)(C)C(C)(C)C)C1(CC1)C(=O)OC(C)(C)C)C | C25H41NO5Si
